US04736051
20 g (0.13 moles) of monobutyl phosphate having a purity of 99% (AV1=360.6, AV2=721.3) was charged into a reactor, to which 129 ml of 1N sodium hydroxide aqueous solution was added and agitated, followed by heating to 70° C. to make a uniform system. At this moment, the acid value of the reaction system was 46.7. While keeping the reaction system at 70° C., 42.7 g of glycidol (the oxirane value=683.7) was gradually dropped, followed by agitation at the temperature for 6 hours, at which the acid value of the reaction system was approximately zero, revealing that the conversion of phosphoric monoester was almost 100%. The reaction product was isolated from the reaction solution by HPLC and the solvent was distilled off under reduced pressure, thereby obtaining 26.5 g of sodium butylglyceryl phosphate (yield: 81.5%).

reactant | monobutyl phosphate | 0.13 moles, 20 g | P(=O)(OCCCC)([O-])[O-]
reactant | sodium hydroxide | 1N, 129 ml | [OH-].[Na+]
reactant | glycidol | 42.7 g | C1C(O1)CO | C3H6O2
reactant | oxirane | O1CC1 | C2H4O
product | sodium butylglyceryl phosphate | 26.5 g, yield: 81.5% | P(=O)(OC(C(O)CO)CCCC)([O-])[O-].[Na+].[Na+] | InChI=1S/C7H17O6P.2Na/c1-2-3-4-7(6(9)5-8)13-14(10,11)12;;/h6-9H,2-5H2,1H3,(H2,10,11,12);;/q;2*+1/p-2
